US07875645B2
rac-2-[1-(2-Methoxy-phenyl)-ethyl]-4,5-dihydro-1H-imidazole was prepared from rac-2-(2-methoxyphenyl)-propionitrile and ethylene diamine in analogy to Example 19 b): light yellow solid; MS (ISP): 205.1 ((M+H)+.).

reactant | rac-2-(2-methoxyphenyl)-propionitrile | COC1=C(C=CC=C1)C(C#N)C | C10H11NO
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(2-Methoxy-phenyl)-ethyl]-4,5-dihydro-1H-imidazole | COC1=C(C=CC=C1)C(C)C=1NCCN1 | C12H16N2O
